US04419352
(a) Ethyl 6-acetyl-7-hydroxy-4-phenylamino-8-propyl-quinoline-2-carboxylate
Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate (1.5 g) was treated with aniline (20 ml) at 175° C. in an autoclave in the presence of p-toluene sulphonic acid (0.1 g) for 72 hours. On cooling the aniline was removed and the residue was heated on a steambath for 12 hours with 70% sulphuric acid. The reaction mixture was poured onto crushed ice and neutralised with ammonia solution to pH 7. Extraction with ethyl acetate followed by drying and evaporation afforded a gum which was taken up in dry ethanol and saturated with hydrogen chloride gas while refluxing for 1 hour. Evaporation of the solvent and trituration with ether afforded the sub-title compound (0.37 g) identified by NMR and mass spectroscopy.

reactant | Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate | 1.5 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
reactant | aniline | 20 ml | NC1=CC=CC=C1 | C6H7N
reactant | p-toluene sulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 6-acetyl-7-hydroxy-4-phenylamino-8-propyl-quinoline-2-carboxylate | 0.37 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OCC)NC1=CC=CC=C1 | C23H24N2O4
